US04985332
C. Preparation of 4-Tetrahydropyranyloxybenzyl Methacrylate
To a stirred solution of 62.4 g (0.3 mol) of 4-tetrahydropyranyloxy benzyl alcohol and 58.5 mL of triethylamine in 225 mL of methylene chloride and 225 mL of diethyl ether cooled in an ice bath was added dropwise 31.9 mL (0.33 mol) of methacrylyl chloride at a rate such that the temperature did not exceed 30° C. After 3.5 hr, the mixture was filtered, and the filtrate was evaporated. The residual oil was treated with ether and triethylamine and washed with water. The organic layer was dried (sodium sulfate) and evaporated to a yellow oil, which, on standing, gradually crystallized. The crystals were rinsed with a small amount of methanol to give 7.3 g of colorless crystals, m.p. 36-36.7° C. The product can be recrystallized from hexane at low temperature. 1H NMR (360 MHz, THF-d8): 1.5-1.82 (m's, 6H, CH2), 1.90 (m, 3H, CH3C=), 3.5 (m, 1H, OCH 2), 3.8 (m, 1H, OCH2), 5.07 (s, 2H, ArCH2OOC), 5.40 (t, J=3, 1H, OCHO), 5.52 (m, 1H, =CH), 6.05 (m, 1H, =CH), 7.0 (m, 2H, ArH), 7.27 (m, 2H, ArH).

reactant | 4-tetrahydropyranyloxy benzyl alcohol | 0.3 mol, 62.4 g | O1C(CCCC1)OC1=CC=C(CO)C=C1 | C12H16O3
reactant | triethylamine | 58.5 mL | C(C)N(CC)CC | C6H15N
reactant | methacrylyl chloride | 0.33 mol, 31.9 mL | C(C(=C)C)(=O)Cl | C4H5ClO
solvent | methylene chloride | 225 mL | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | 225 mL | C(C)OCC | C4H10O
product | 4-Tetrahydropyranyloxybenzyl Methacrylate | 7.3 g | C(C(=C)C)(=O)OCC1=CC=C(C=C1)OC1OCCCC1 | C16H20O4
